US06916822B2
1-(4-Diethylcarbamoylphenyl)-1-(2-methoxyphenyl)methyl alcohol (14.14 g) was dissolved in pyridine (280 ml), added with acetic anhydride (140 ml) with ice cooling and stirred at room temperature for 15 hours. After the reaction mixture was added with methanol (140 ml) with ice cooling and stirred at room temperature for 10 minutes, the solvent was evaporated under reduced pressure to obtain 1-(4-diethylcarbamoylphenyl)-1-(2-methoxyphenyl)methyl acetate.

reactant | 1-(4-Diethylcarbamoylphenyl)-1-(2-methoxyphenyl)methyl alcohol | 14.14 g | C(C)N(C(=O)C1=CC=C(C=C1)C(C1=C(C=CC=C1)OC)O)CC | C19H23NO3
reactant | acetic anhydride | 140 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | methanol | 140 ml | CO | CH4O
solvent | pyridine | 280 ml | N1=CC=CC=C1 | C5H5N
product | 1-(4-diethylcarbamoylphenyl)-1-(2-methoxyphenyl)methyl acetate | C(C)(=O)OC(C1=C(C=CC=C1)OC)C1=CC=C(C=C1)C(N(CC)CC)=O | C21H25NO4
